US06248739B1
A flask containing 4-(4-aminobenzyl)morpholine from Preparation No. 22 (0.48 g) is treated with methanol (5 mL) and a few dozen dry molecular sieves (3 Å). The mixture is treated with acetic acid (1 mL) and terahydro-4H-pyran-4-one (0.24 mL). After 1 hour, the mixture is carefully treated with sodium cyanoborohydride (0.6 g) and heated to reflux under an argon atmosphere. After 1 hour, the mixture is cooled to room temperature and filtered with methanol washes. The filtrate is diluted with diethyl ether and washed with aqueous sodium hydroxide (2N). The aqueous is back-extracted with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is flash column chromatographed on silica eluting with 2% to 5% methanol in dichloromethane. The product-containing fractions are combined and evaporated to afford 0.34 g of N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-pyran-4-amine as a white solid.

reactant | 4-(4-aminobenzyl)morpholine | NC1=CC=C(CN2CCOCC2)C=C1 | C11H16N2O
reactant | methanol | 5 mL | CO | CH4O
product | N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-pyran-4-amine | 0.34 g | N1(CCOCC1)CC1=CC=C(C=C1)NC1CCOCC1 | C16H24N2O2
